US04762838
6-Cyanoquinazolin-4(3H)-one
6-Aminoquinazolin-4(3H)-one was slurried in 300 ml of 5% hydrochloric acid and the reaction mixture was cooled to 5° C. A solution of 6.72 g (0.097 mol) of sodium nitrite in 30 ml of water was added dropwise over 2.5 hours while maintaining the reaction temperature below 10° C. The resulting diazonium salt was then added portionwise to a hot (86° C.) solution of 7.84 g (0.0876 mol) of copper cyanide and 11.0 g (0.224 mol) sodium cyanide in 60 ml of water. Evolution of nitrogen was evident throughout the addition. After stirring for 30 minutes, the reaction mixture was filtered, washed with water, and air-dried. The crude product (9.1 g) was purified by silica gel chromatography to afford 3.89 g (26%) of the title compound; m.p. 294°-300° C.

reactant | 6-Aminoquinazolin-4(3H)-one | NC=1C=C2C(NC=NC2=CC1)=O | C8H7N3O
reactant | sodium nitrite | 0.097 mol, 6.72 g | N(=O)[O-].[Na+]
reactant | copper cyanide | 0.0876 mol, 7.84 g | [Cu](C#N)C#N
reactant | sodium cyanide | 0.224 mol, 11.0 g | [C-]#N.[Na+]
solvent | hydrochloric acid | 300 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | 6-Cyanoquinazolin-4(3H)-one | 3.89 g, 26% | C(#N)C=1C=C2C(NC=NC2=CC1)=O | C9H5N3O
